US05972965
A solution of ethyl 2-piperidinecarboxylate (10.0 ml), 3-methoxybenzyl chloride (9.2 ml), and triethylamine (26.6 ml) in N,N-dimethylformamide (64.0 ml) was stirred at room temperature overnight and partitioned between ethyl acetate and water. The organic layer was separated, washed with water (four times) and brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford ethyl 1-(3-methoxybenzyl)-2-piperidinecarboxylate (12.06 g) as a colorless oil. (+) APCI-MS (m/z): 278 (M+ +1) IR (Film): 1725, 1600, 1260 cm-1NMR (CDCl3, δ): 1.29 (3H, t, J=7.1 Hz), 1.50-1.85 (6H, m), 2.10-2.22 (1H, m), 2.88-3.00 (1H, m), 3.14 (1H, dd, J=6.8, 5.2 Hz), 3.40 (1H, d, J=13.4 Hz), 3.78 (1H, d, J=13.4 Hz), 3.81 (3H, s), 4.21 (2H, q, J=7.1 Hz), 6.77-6.82 (1H, m), 6.89-6.93 (2H, m), 7.17-7.27 (1H, m)

reactant | ethyl 2-piperidinecarboxylate | 10.0 ml | N1C(CCCC1)C(=O)OCC | C8H15NO2
reactant | 3-methoxybenzyl chloride | 9.2 ml | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | triethylamine | 26.6 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 64.0 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(3-methoxybenzyl)-2-piperidinecarboxylate | 12.06 g | COC=1C=C(CN2C(CCCC2)C(=O)OCC)C=CC1 | C16H23NO3
